US05527926
A. N,N'-Bis[2-(acetyloxy)-1-[(acetyloxy)-methyl]ethyl]-2,4,6-triiodo-5-[(1-oxo-4-pentenyl)amino]-1,3-benzenedicarboxamide
4-Pentenoyl chloride (11.9 g, 100 mmol) was added to a stirred solution of N,N'-bis-[2-(acetyloxy)-1-[(acetyloxy)-methyl]ethyl]-5-amino-2,4,6 -triiodo-1,3-benzenedicarboxamide (47.75 g, 50 mmol) in dimethylacetamide (400 mL) at room temperature and the mixture was stirred for 16 hours. Dimethylacetamide was removed in vacuo and the residue dissolved in ethyl acetate (600 ml). The solution was washed with aqueous sodium bicarbonate (10%, 2×150 mL) and with water (2×100 mL) and brine (150 mL). The organic layer was dried and the solvent removed to obtain the crude product as an off-white solid. Further purification by crystallization from a mixture of acetone (250 mL) and hexane (75 mL) afforded the title A compound (42.5 g), m.p. 162°-64°. TLC: Rf 0.55 in ethyl acetate. Mass Spectrum: m/z 956 (M+H)+, 830, 653.

reactant | 4-Pentenoyl chloride | 100 mmol, 11.9 g | C(CCC=C)(=O)Cl | C5H7ClO
reactant | N,N'-bis-[2-(acetyloxy)-1-[(acetyloxy)-methyl]ethyl]-5-amino-2,4,6 -triiodo-1,3-benzenedicarboxamide | 50 mmol, 47.75 g | C(C)(=O)OCC(COC(C)=O)NC(=O)C1=C(C(=C(C(=C1I)N)I)C(=O)NC(COC(C)=O)COC(C)=O)I | C22H26I3N3O10
solvent | dimethylacetamide | 400 mL | CC(=O)N(C)C | C4H9NO
product | N,N'-Bis[2-(acetyloxy)-1-[(acetyloxy)-methyl]ethyl]-2,4,6-triiodo-5-[(1-oxo-4-pentenyl)amino]-1,3-benzenedicarboxamide | 42.5 g | C(C)(=O)OCC(COC(C)=O)NC(=O)C1=C(C(=C(C(=C1I)NC(CCC=C)=O)I)C(=O)NC(COC(C)=O)COC(C)=O)I | C27H32I3N3O11
